US06369070B1
N-(t-Butyloxycarbonyl)-3-Nitrobenzylamine
To a suspension of 4-nitrobenzylamine hydrochloride (10.3 g, 54.7 mmol) and triethylamine (11.1 g, 109 mmol) in dichloromethane (75 mL) was added a solution of di-tert-butyldicarbonate (15.5 g, 71.1 mmol) in dichloromethane (25 L). After stirring overnight at room temperature, the reaction was washed with 10k citric acid (2×250 mL), dried over magnesium sulfate, filtered, and the solvent removed under reduced pressure. The residue was recrystallized from ethyl acetate/hexanes to afford the 13.80 g of the title compound. (100%).

reactant | 4-nitrobenzylamine hydrochloride | 54.7 mmol, 10.3 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | triethylamine | 109 mmol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 71.1 mmol, 15.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 L | ClCCl | CH2Cl2
product | N-(t-Butyloxycarbonyl)-3-Nitrobenzylamine | 13.80 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H16N2O4
